US09382238B2
To a mixture of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (30 mg, 0.073 mmol) in pyridine (5 mL) was added 4-bromo-6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-amine (20.64 mg, 0.073 mmol) and T3P® (EA solvate) (0.5 mL, 0.073 mmol). The mixture was stirred at 25° C. for 1 h. The mixture was concentrated and purified by preparative TLC (DCM/MeOH=15:1, Rf=0.6) to yield a light yellow solid of N-(4-bromo-6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-yl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (30 mg, 0.038 mmol, 51.7% yield): 1H NMR (400 MHz, CD3OD): δ 8.84 (s, 1H), 7.99 (s, 1H), 7.90 (s, 1H), 7.46 (d, J=7.6 Hz, 1H), 7.40 (d, J=8.4 Hz, 2H), 7.33 (d, J=9.6 Hz, 2H), 6.94 (d, J=8.4 Hz, 2H), 6.48 (s, 1H), 5.30 (s, 2H), 4.16 (q, J=6.8 Hz, 2H), 3.93 (s, 2H), 3.82 (s, 3H), 1.63 (s, 6H), 1.40 (t, J=7.0 Hz, 3H). ES-LCMS m/z 678.0 (M+H+2).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.073 mmol, 30 mg | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 4-bromo-6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-amine | 0.073 mmol, 20.64 mg | BrC1=C(C=NC(=C1)C(C(F)(F)F)(C)C)N | C9H10BrF3N2
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-bromo-6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-yl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.038 mmol, 30 mg, 51.7% yield | BrC1=C(C=NC(=C1)C(C(F)(F)F)(C)C)NC(CC1=C(C=C(C=C1)C=1C=NC(=CC1OCC)OCC1=CC=C(C=C1)OC)F)=O | C32H30BrF4N3O4
